US07528134B2
2-bromo-N-(4-bromo-3-methylphenyl)acetamide
4-Bromo-3-methylaniline (10.08 g, 54.18 mmol) in 2N sodium hydroxide (200 mL) was treated with bromoacetyl chloride (5.00 mL, 60.8 mmol) as a solution in dichloromethane (200 mL) dropwise. After 15 minutes, the layers were separated. The organic phase was washed with 1N hydrochloric acid, dried (Na2SO4), filtered, and the filtrate concentrated under reduced pressure to provide 11.75 g (71%) of the title compound as a tan solid. 1H NMR (300 MHz, CDCl3) δ 2.39 (s, 3H), 4.01 (s, 2H), 7.23 (m, 1H), 7.44 (d, 1H, J=2.4 Hz), 7.49 (d, 1H, J=8.8 Hz), 8.07 (br s, 1H); MS (DCI/NH3) m/e 306 (M+H)+.

reactant | 4-Bromo-3-methylaniline | 54.18 mmol, 10.08 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | bromoacetyl chloride | 60.8 mmol, 5.00 mL | BrCC(=O)Cl | C2H2BrClO
solvent | sodium hydroxide | 2N, 200 mL | [OH-].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-bromo-N-(4-bromo-3-methylphenyl)acetamide | 11.75 g, 71% | BrCC(=O)NC1=CC(=C(C=C1)Br)C | C9H9Br2NO
